US04908371
5.6 ml of triethylamine are added to a suspension of 5.56 g of 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone in 400 ml of methylene chloride and 400 ml of acetonitrile, followed by the addition, over 30 minutes, of 7.38 ml of trimethylacetyl chloride. The reaction is complete after 15 minutes. The resultant solution is concentrated by evaporation under reduced pressure, the residue is taken up in water and extracted with methylene chloride. The residue of the organic extract is crystallised from 500 ml of ethyl acetate, affording 1,2-dimethyl-3-pivaloyloxy-4(1H)-pyridinone, which melts at 112°-113° C. (sinters from 103° C.).

reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-1,2-dimethyl-4(1H)-pyridinone | 5.56 g | OC1=C(N(C=CC1=O)C)C | C7H9NO2
reactant | trimethylacetyl chloride | 7.38 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1,2-dimethyl-3-pivaloyloxy-4(1H)-pyridinone | CN1C(=C(C(C=C1)=O)OC(C(C)(C)C)=O)C | C12H17NO3
